US05364871
30% Hydrogen peroxide (130 ml) was added to ethyl pyruvate (216 g) at -5° to 5° C. with stirring. This solution was then added to a mixture of 4-acetylpyridine (15.0 g), concentrated sulfuric acid (12.4 g), ferrous sulfate heptahydrate (345 g), dichloromethane (1.5 l) and water (100 ml) at the same temperature with stirring. After further stirring for 30 minutes, the resulting organic layer was separated. The solution was washed with aqueous sodium sulfite and then water, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by silica gel column chromatography by eluting with a mixture of ethyl acetate and toluene (1:20) to give ethyl 4-acetyl-2-pyridinecarboxylate (5.79 g).

reactant | Hydrogen peroxide | 130 ml | OO | H2O2
reactant | ethyl pyruvate | 216 g | C(C(=O)C)(=O)OCC | C5H8O3
reactant | 4-acetylpyridine | 15.0 g | C(C)(=O)C1=CC=NC=C1 | C7H7NO
reactant | sulfuric acid | 12.4 g | S(O)(O)(=O)=O | H2O4S
solvent | water | 100 ml | O | H2O
solvent | dichloromethane | 1.5 l | ClCCl | CH2Cl2
product | ethyl 4-acetyl-2-pyridinecarboxylate | 5.79 g | C(C)(=O)C1=CC(=NC=C1)C(=O)OCC | C10H11NO3
